US06335332B1
b) preparation of 5-[3-(4-methoxyphenyl)propionyl]barbituric acid
To a suspension of barbituric acid (6.4 g) in 48 ml of pyridine are added dropwise 11 g of 3-(4-methoxyphenyl)propionyl chloride and the mixture is stirred at room temperature for 18 hours. The reaction mixture is then poured into ice and acidified to pH=1 by adding 6 N hydrochloric acid. A solid precipitates, which is filtered and resuspended in methanol. The suspension is kept under stirring for 15 minutes, then the solid is recovered by filtration to give 12.2 g of the product, m.p. 248-250° C.

reactant | barbituric acid | 6.4 g | N1C(=O)NC(=O)CC1=O | C4H4N2O3
reactant | 3-(4-methoxyphenyl)propionyl chloride | 11 g | COC1=CC=C(C=C1)CCC(=O)Cl | C10H11ClO2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | pyridine | 48 ml | N1=CC=CC=C1 | C5H5N
product | 5-[3-(4-methoxyphenyl)propionyl]barbituric acid | 12.2 g | COC1=CC=C(C=C1)CCC(=O)C1C(NC(NC1=O)=O)=O | C14H14N2O5
